* FILE: MMI_MUX2D.sp


* SPICE netlist for "MMI_MUX2D" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_MUX2D in0 in1 out sel 
Mxgate._0 net_2 sel net_4 vdd p W='3.08*1u' L=lp_min  
Mxgate._1 net_2 net_1 net_4 gnd n W='1.54*1u' L=ln_min  
Minverter._2 net_4 in0 gnd gnd n W='1.54*1u' L=ln_min  
Minverter._3 net_4 in0 vdd vdd p W='3.08*1u' L=lp_min  
Minverter_1._4 net_3 in1 gnd gnd n W='1.54*1u' L=ln_min 
Minverter_1._5 net_3 in1 vdd vdd p W='3.08*1u' L=lp_min 
Mxgate_1._6 net_2 net_1 net_3 vdd p W='3.08*1u' L=lp_min 
Mxgate_1._7 net_2 sel net_3 gnd n W='1.54*1u' L=ln_min  
Minverter_2._8 net_1 sel gnd gnd n W='0.52*1u' L=ln_min 
Minverter_2._9 net_1 sel vdd vdd p W='1.04*1u' L=lp_min 
Minverter_3._10 out net_2 gnd gnd n W='3.08*1u' L=ln_min 
Minverter_3._11 out net_2 vdd vdd p W='6.16*1u' L=lp_min 
.ENDS	$ MMI_MUX2D

