* FILE: MMI_MUXI3C.sp


* SPICE netlist for "MMI_MUXI3C" (generated by MMI_SUE4.2.16)

.SUBCKT MMI_MUXI3C in0 in1 in2 out sel0 sel1 
Mxgate._0 N2 sel1 N1 vdd p W='1.54*1u' L=lp_min  
Mxgate._1 N2 sel1_L N1 gnd n W='0.77*1u' L=ln_min  
Mxgate_1._2 N2 sel1_L in2_L vdd p W='1.54*1u' L=lp_min  
Mxgate_1._3 N2 sel1 in2_L gnd n W='0.77*1u' L=ln_min  
Minverter._4 in2_L net_3 gnd gnd n W='0.77*1u' L=ln_min 
Minverter._5 in2_L net_3 vdd vdd p W='1.54*1u' L=lp_min 
Minverter_1._6 sel1_L sel1 gnd gnd n W='0.385*1u' L=ln_min 
Minverter_1._7 sel1_L sel1 vdd vdd p W='0.77*1u' L=lp_min 
Mxgate_2._8 net_2 sel0 net_4 vdd p W='1.54*1u' L=lp_min 
Mxgate_2._9 net_2 net_1 net_4 gnd n W='0.77*1u' L=ln_min 
Minverter_2._10 net_4 in0 gnd gnd n W='0.77*1u' L=ln_min 
Minverter_2._11 net_4 in0 vdd vdd p W='1.54*1u' L=lp_min 
Mxgate_3._12 net_2 net_1 net_5 vdd p W='1.54*1u' L=lp_min 
Mxgate_3._13 net_2 sel0 net_5 gnd n W='0.77*1u' L=ln_min 
Minverter_3._14 net_5 in1 gnd gnd n W='0.77*1u' L=ln_min 
Minverter_3._15 net_5 in1 vdd vdd p W='1.54*1u' L=lp_min 
Minverter_4._16 net_1 sel0 gnd gnd n W='0.385*1u' L=ln_min 
Minverter_4._17 net_1 sel0 vdd vdd p W='0.77*1u' L=lp_min 
Minverter_5._18 N1 net_2 gnd gnd n W='0.77*1u' L=ln_min 
Minverter_5._19 N1 net_2 vdd vdd p W='1.54*1u' L=lp_min 
Minverter_6._20 net_3 in2 gnd gnd n W='0.385*1u' L=ln_min 
Minverter_6._21 net_3 in2 vdd vdd p W='0.77*1u' L=lp_min 
Minverter_7._22 out N2 gnd gnd n W='1.54*1u' L=ln_min  
Minverter_7._23 out N2 vdd vdd p W='3.08*1u' L=lp_min  
.ENDS	$ MMI_MUXI3C

