* FILE: MMI_NAND3C.sp


* SPICE netlist for "MMI_NAND3C" (generated by MMI_SUE4.2.1)

.SUBCKT MMI_NAND3C in0 in1 in2 out 
M_0 out in0 vdd vdd p W='3.68*1u' L=lp_min  
M_1_1 out in1 vdd vdd p W='3.68*1u' L=lp_min  
M_2_1 out in2 vdd vdd p W='3.68*1u' L=lp_min  
M_3_1 out in0 net_1 gnd n W='5.52*1u' L=ln_min  
M_4_1 net_1 in1 net_2 gnd n W='5.52*1u' L=ln_min  
M_5_1 net_2 in2 gnd gnd n W='5.52*1u' L=ln_min  
.ENDS	$ MMI_NAND3C

